US05807883
Under argon gas atmosphere, 29.90 ml of acrylonitrile and 62.70 g of potassium carbonate were added to 210 ml of a dimethyl sulfoxide solution of 70.00 g of 3-amino-1-(2-fluorophenyl)-2,3-dihydro-6-methoxy-1H-indol-2-one hydrochloride, and the whole was stirred at room temperature overnight. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate extract was washed with water successively with water and a saturated sodium chloride solution, and dried over anhydrous sodium sulfate and then filtered. The filtrate was evaporated to afford 70.70 g of 3-[3-amino-1-(2-fluorophenyl)-2,3-dihydro-6-methoxy-2-oxo-1H-indol-3-yl]propanenitrile as a brown oil.

reactant | acrylonitrile | 29.90 ml | C(C=C)#N | C3H3N
reactant | potassium carbonate | 62.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 210 ml | CS(=O)C | C2H6OS
reactant | 3-amino-1-(2-fluorophenyl)-2,3-dihydro-6-methoxy-1H-indol-2-one hydrochloride | 70.00 g | Cl.NC1C(N(C2=CC(=CC=C12)OC)C1=C(C=CC=C1)F)=O
solvent | water | O | H2O
product | 3-[3-amino-1-(2-fluorophenyl)-2,3-dihydro-6-methoxy-2-oxo-1H-indol-3-yl]propanenitrile | 70.70 g | NC1(C(N(C2=CC(=CC=C12)OC)C1=C(C=CC=C1)F)=O)CCC#N | C18H16FN3O2
